US08071584B2
2-Bromo-5-[(methyloxy)methyl]furan
Sodium hydride (95%, 28 mg, 1.12 mmol) was diluted in dry DMF (1 mL) and cooled to 0° C. (5-bromo-2-furanyl)methanol (177 mg, 1 mmol) in DMF (2 mL) was added, and the mixture was stirred for 5 minutes. Methyl iodide (0.07 mL, 1.12 mmol) was added, and the mixture was stirred at room temperature overnight. The reaction mixture was quenched by the careful addition of water, then extracted with ethyl acetate (20 mL), followed by dichloromethane (20 mL). The combined organics were dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography, eluting with EtOAc/hexanes. The desired fractions were combined and concentrated, giving 40 mg (21%) of the title compound.

reactant | Sodium hydride | 1.12 mmol, 28 mg | [H-].[Na+]
reactant | (5-bromo-2-furanyl)methanol | 1 mmol, 177 mg | BrC1=CC=C(O1)CO | C5H5BrO2
reactant | Methyl iodide | 1.12 mmol, 0.07 mL | CI | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-5-[(methyloxy)methyl]furan | 40 mg, 21% | BrC=1OC(=CC1)COC | C6H7BrO2
